US07737149B2
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,5-dimethylpiperazin-1-yl]benzamide
A 2M solution of trimethylaluminium in toluene (1.875 mL, 3.75 mmol) was added dropwise to a stirred suspension of ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate (0.394 g, 1.50 mmol) and 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (0.374 g, 1.5 mmol) in toluene (10 mL) at 20° C., over a period of 5 mins under nitrogen. The resulting solution was stirred at 60° C. for 5 h. The reaction mixture was cooled and the reaction quenched by diluting with acetone (100 ml) and excess damp sodium sulphite added in portions. This was stirred for 60 mins. The resulting solid filtered off, washed with 10% methanol in DCM. The filtrate was evaporated to give crude product. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 2M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (0.287 g, 41.1%) as a white solid. 1H NMR (500.13 MHz, DMSO-d6) δ 1.08 (6H, d), 2.31 (2H, t), 3.70-3.73 (2H, m), 3.78 (6H, s), 5.10 (2H, s), 5.64 (1H, s), 6.46 (1H, t), 6.62 (2H, d), 6.95-6.97 (2H, m), 7.83-7.85 (2H, m), 10.21 (1H, s), 11.09 (1H, s). MS: m/z 466 (MH+).

reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate | 1.50 mmol, 0.394 g | C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 1.5 mmol, 0.374 g | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.75 mmol, 1.875 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,5-dimethylpiperazin-1-yl]benzamide | 0.287 g, 41.1% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(C1=CC=C(C=C1)N1C[C@H](N[C@H](C1)C)C)=O | C25H31N5O4
